US03994920
Condense 2-benzoyl-4-nitrobenzoic acid with ethylenediamine by the procedure of Example 1 to obtain 8-nitro-9b-phenyl-1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one, m.p. 203° C.

reactant | 2-benzoyl-4-nitrobenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C14H9NO5
reactant | ethylenediamine | C(CN)N | C2H8N2
product | 8-nitro-9b-phenyl-1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one | [N+](=O)([O-])C1=CC=C2C(N3C(C2=C1)(NCC3)C3=CC=CC=C3)=O | C16H13N3O3
